### PR TITLE
[Merged by Bors] - feat(NumberField/FundamentalCone): define the set `NormLeOne`

### PR DESCRIPTION
**Pull request by xroblot**
We define the set `NormLeOne` of elements of the `fundamentalCone` of norm `≤ 1` and start working toward computing its volume and other results that play a fundamental role in the proof of the Analytic Class Number Formula. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean [hunk 1]
```diff
@@ -0,0 +1,165 @@
...
+variable [NumberField K]
+
+/--
+The set of elements of the `fundamentalCone` of `norm ≤ 1`.
+-/
+abbrev normLeOne : Set (mixedSpace K) :=
+  {x | x ∈ fundamentalCone K ∧ mixedEmbedding.norm x ≤ 1}
+
+variable {K} in
+theorem mem_normLeOne (x : mixedSpace K) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean:77]: I think the current convention is to have `x` implicit.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean [hunk 2]
```diff
@@ -0,0 +1,165 @@
...
+theorem normLeOne_eq_primeage_image :
+    normLeOne K = normAtAllPlaces⁻¹' (normAtAllPlaces '' (normLeOne K)) := by
+  refine subset_antisymm (Set.subset_preimage_image _ _) ?_
+  rintro x ⟨y, hy₁, hy₂⟩
+  rw [mem_normLeOne, ← normAtAllPlaces_mem_fundamentalCone_iff, ← norm_normAtAllPlaces,
+    ← mem_normLeOne] at hy₁ ⊢
+  rwa [← hy₂]
+
+open scoped Classical in
+theorem normAtAllPlaces_normLeOne :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean:89]: Can you write this using intersection of sets? I suspect that the API for `A ∩ B` is more developed than  those for `{x | f x ∧ g x}` (of course those are 100% the same, but let's avoid defeq abuse as much as possible).

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean [hunk 3]
```diff
@@ -0,0 +1,165 @@
...
+  continuousOn_invFun := continuousOn_const.mul (Real.continuousOn_log.mono (by aesop))
+
+variable [NumberField K]
+
+/--
+The map from `realSpace K → realSpace K` whose components is given by `expMap_single`. It is, in
+some respect, a right inverse of `logMap`, see `logMap_expMap`.
+-/
+def expMap : PartialHomeomorph (realSpace K) (realSpace K) := by
+  refine PartialHomeomorph.pi fun w ↦ expMap_single w
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/NormLeOne.lean:133]:
```suggestion
def expMap : PartialHomeomorph (realSpace K) (realSpace K) :=
  PartialHomeomorph.pi fun w ↦ expMap_single w
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by xroblot** [comment]
> Thanks!
> 
> bors d+

Thanks for the review!
